US04921852
A mixture of 4-nitrobenzyl (5R,6S)-3-[(2S,4S)-2-(2-aminothiazol-4-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.85 g), 20% palladium hydroxide on carbon (500 mg), 0.05 M phosphate buffer (pH 6.5, 30 ml) and tetrahydrofuran (50 ml) was stirred at room temperature for 4 hours under atmospheric pressure of hydrogen. After the catalyst was filtered off, the filtrate was concentrated to remove the organic solvent. The residue was washed with ethyl acetate, adjusted to pH 6.2 with aqueous potassium carbonate and concentrated to remove the organic solvent. The residue was chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries) (60 ml) eluting in turn with water (300 ml) and 5% aqueous acetone (200 ml). The fractions containing the desired compound were collected and lyophilized to give (5R, 6S)-3-[(2S,4S)-2-(2-aminothiazol-4-yl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (540 mg).

reactant | 4-nitrobenzyl (5R,6S)-3-[(2S,4S)-2-(2-aminothiazol-4-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.85 g | NC=1SC=C(N1)[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C39H35N7O14S2
reactant | phosphate | 0.05 M, 30 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 500 mg | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (5R, 6S)-3-[(2S,4S)-2-(2-aminothiazol-4-yl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 540 mg | NC=1SC=C(N1)[C@H]1NC[C@H](C1)SC1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)O | C16H20N4O4S2
